US08859768B2
To a solution of 5-(2-acetamido-5-methylpyridin-4-yl)-2-bromo-3-furoic acid (10.0 g, 29.6 mmol) in THF (950 mL) at −20° C. was added TEA (4.55 mL, 32.5 mmol) over 20 min. The reaction mixture was allowed to stir for 10 min after addition was complete and then isobutyl carbonochloridate (10.7 g, 88.8 mmol) was added over 10 min. The reaction mixture was allowed to stir for 20 min at −20° C. and was then allowed to warm to rt. A solution of NH3 in THF was added and the reaction mixture was allowed to stir at rt overnight. The mixture was concentrated and the residue was diluted with water and filtered to give 5-(2-acetamido-5-methylpyridin-4-yl)-2-bromo-3-furamide (8.5 g, 85%).

reactant | 5-(2-acetamido-5-methylpyridin-4-yl)-2-bromo-3-furoic acid | 29.6 mmol, 10.0 g | C(C)(=O)NC1=NC=C(C(=C1)C1=CC(=C(O1)Br)C(=O)O)C | C13H11BrN2O4
reactant | isobutyl carbonochloridate | 88.8 mmol, 10.7 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | NH3 | N | H3N
solvent | THF | 950 mL | C1CCOC1 | C4H8O
product | 5-(2-acetamido-5-methylpyridin-4-yl)-2-bromo-3-furamide | 8.5 g, 85% | C(C)(=O)NC1=NC=C(C(=C1)C1=CC(=C(O1)Br)C(=O)N)C | C13H12BrN3O3
